US09399640B2
4-(2,4-Difluorophenoxy)-1,3-dimethyl-5-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one
A solution of 4-(2,4-difluorophenoxy)-1-methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one (30.0 mg, 0.0520 mmol) in N,N-dimethylformamide (0.25 mL) was treated with sodium hydride (4.2 mg, 0.104 mmol) and stirred at RT for 30 min. The reaction mixture was treated with methyl iodide (4.9 μL, 0.0780 mmol) and stirred at RT for 1 h. Analytical LCMS indicated the reaction was complete. The reaction mixture was diluted with ethanol (3.0 mL), treated with 3.0 M sodium hydroxide in water (0.175 mL, 0.525 mmol), and stirred at RT overnight. The reaction was quenched with acetic acid (0.044 mL, 0.780 mmol) and purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% trifluoroacetic acid, at flow rate of 60 mL/min) to give the desired product (14.5 mg, 64%). 1H NMR (400 MHz, DMSO-d6) δ 11.93 (s, 1H), 7.25-7.10 (m, 5H), 6.74-6.62 (m, 1H), 6.56-6.42 (m, 1H), 6.16-6.05 (m, 1H), 3.44 (s, 3H), 3.39 (s, 3H), 3.32 (s, 3H); LCMS calculated for C23H19F2N4O3 (M+H)+: m/z=437.1. found: 437.1.

reactant | 4-(2,4-difluorophenoxy)-1-methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one | 0.0520 mmol, 30.0 mg | FC1=C(OC2=C(C=CC=3N(C(NC32)=O)C)C=3C2=C(C(N(C3)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C29H22F2N4O5S
reactant | sodium hydride | 0.104 mmol, 4.2 mg | [H-].[Na+]
reactant | methyl iodide | 0.0780 mmol, 4.9 μL | CI | CH3I
reactant | sodium hydroxide | 3.0 M | [OH-].[Na+]
reactant | water | 0.525 mmol, 0.175 mL | O | H2O
reactant | acetic acid | 0.780 mmol, 0.044 mL | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 0.25 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 4-(2,4-Difluorophenoxy)-1,3-dimethyl-5-(6-methyl-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one | 14.5 mg, 64% | FC1=C(OC2=C(C=CC=3N(C(N(C32)C)=O)C)C=3C2=C(C(N(C3)C)=O)NC=C2)C=CC(=C1)F | C23H18F2N4O3
